US04737516
(C) 3-Bromo-7-methylbenzo[b]thiophene
25 g of 7-methylbenzo[b]thiophene are dissolved in chloroform and 27 g of bromine added at room temperature with stirring. After one hour the mixture is poured onto water and the organic phase separated, washed, dried and concentrated under vacuum. The title compound (contaminated with ca. 10% of 4-bromo-7-methylbenzo[b]thiophene) is obtained as an oil following vacuum distillation at 92°-98°/2.6 mbar.

reactant | 7-methylbenzo[b]thiophene | 25 g | CC1=CC=CC2=C1SC=C2 | C9H8S
reactant | bromine | 27 g | BrBr | Br2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-Bromo-7-methylbenzo[b]thiophene | ca. 10% | BrC=1C2=C(SC1)C(=CC=C2)C | C9H7BrS
